US04788210
starting from 4-chloro-2-fluorobenzamide and triethyloxonium tetrafluoroborate there is obtained ethyl 4-chloro-2-fluorobenzimidate as an oil; mass spectrum: 202 (3.5), 201 (1), 200 (10), 182 (2), 173 (27), 157 (100), 156 (75);

reactant | 4-chloro-2-fluorobenzamide | ClC1=CC(=C(C(=O)N)C=C1)F | C7H5ClFNO
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
product | ethyl 4-chloro-2-fluorobenzimidate | ClC1=CC(=C(C(OCC)=N)C=C1)F | C9H9ClFNO
